US07547710B2
To a solution of 3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl trifluoromethanesulfonate (3.03 g, 6.13 mmol), copper iodide (176 mg, 0.920 mmol) and hex-5-ynenitrile (2.86 g, 30.7 mmol) in tetrahydrofuran (30 ml)-triethylamine (10 ml) was added dichlorobistriphenylphosphinepalladium (431 mg, 0.613 mmol), and the mixture was stirred under an argon atmosphere at 80° C. for 10 min. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous ammonium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give black crystals. The crystals were recrystallized from ethyl acetate-n-hexane to give tert-butyl {[6-(5-cyanopent-1-yn-1-yl)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (2.56 g, yield 84%) as white crystals. Subsequently, tert-butyl {[6-(5-cyanopent-1-yn-1-yl)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (2.56 g, 5.17 mmol) and 10% palladium-carbon (550 mg) were suspended in a mixed solvent of ethanol (200 ml)-tetrahydrofuran (35 ml) and the mixture was stirred under a hydrogen atmosphere at room temperature for 3.5 hrs. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to give tert-butyl {[6-(5-cyanopentyl)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (2.37 g, yield 92%) as white crystals.

reactant | 3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl trifluoromethanesulfonate | 6.13 mmol, 3.03 g | FC(S(=O)(=O)OC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(=O)OC(C)(C)C)C1=CC=C(C=C1)C)(F)F | C27H31F3N2O5S
reactant | hex-5-ynenitrile | 30.7 mmol, 2.86 g | C(CCCC#C)#N | C6H7N
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 0.920 mmol, 176 mg | [Cu](I)I
product | tert-butyl {[6-(5-cyanopent-1-yn-1-yl)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate | 2.56 g, yield 84% | C(#N)CCCC#CC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C32H37N3O2
